US07572797B2
N-(6-Amino-5-chloropyrazin-2-yl)-5-methylisoxazole-4-carboxamide
Oxalyl chloride (0.8 ml, 10.3 mmol) was added to a solution of 5-Methyl-isoxazole-4-carboxylic acid (1 g, 6.9 mmol) in dichloromethane (30 ml) followed by 1 drop of dimethylformamide. The mixture was stirred at room temperature for 5 hours before concentrating in vacuo and azeotroping with dichloromethane. The residue was taken up in pyridine (3 ml) and added to a solution of 3-chloro-pyrazine-2,6-diamine (Preparation 1) (0.65 g, 4.6 mmol) in anhydrous pyridine (30 ml) and the mixture heated at 50° C. for 3 hours before cooling to room temperature and concentrating in vacuo. The residue was purified by silica gel column chromatography, eluting with ethyl acetate:heptane 1:1, to afford the product as a white solid (360 mg).

reactant | Oxalyl chloride | 10.3 mmol, 0.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-Methyl-isoxazole-4-carboxylic acid | 6.9 mmol, 1 g | CC1=C(C=NO1)C(=O)O | C5H5NO3
reactant | 3-chloro-pyrazine-2,6-diamine | 4.6 mmol, 0.65 g | ClC=1C(=NC(=CN1)N)N | C4H5ClN4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-(6-Amino-5-chloropyrazin-2-yl)-5-methylisoxazole-4-carboxamide | 360 mg | NC1=C(N=CC(=N1)NC(=O)C=1C=NOC1C)Cl | C9H8ClN5O2
